US07939527B2
Intermediate 25: (1S,4S)-2,5-Diazabicyclo[2.2.1]heptane-2-carboxamide hydrochloride
To a solution of tert-butyl-(S,S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate (35.6 g, 179 mmol) in CH2Cl2 (600 mL) was added trimethylsilylisocyanate (82.5 g, 716 mmol, 4 equiv.). The reaction was stirred at rt for 2 h. After concentration, the resulting white solid was dissolved in CH2Cl2 (500 mL) and treated with a solution of HCl (4 M in dioxane, 135 mL, 3 equiv.). The solution quickly became heterogeneous. The suspension was then stirred at rt overnight. Upon concentration, the desired product was isolated as a white solid (33 g, 104%), which was used directly in the next step. [Note: the mass balance was found to be 104%, which arises from additional HCl that could not be removed by standard evaporation under vacuum]. 1H NMR (500 MHz, CD3OD): 4.77 (s, 1H), 4.55 (s, 1H), 3.69 and 3.64 (AB, JAB=12.1, 2H), 3.47 and 3.40 (AB, JAB=11.3, 2H), 2.22 and 2.15 (AB, JAB=11.5, 2H).

reactant | tert-butyl-(S,S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 179 mmol, 35.6 g | C(C)(C)(C)OC(=O)N1[C@@H]2CN[C@H](C1)C2 | C10H18N2O2
reactant | trimethylsilylisocyanate | 716 mmol, 82.5 g, 4 equiv. | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | HCl | 4 M, 135 mL, 3 equiv. | Cl | ClH
solvent | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
product | (1S,4S)-2,5-Diazabicyclo[2.2.1]heptane-2-carboxamide hydrochloride | Cl.[C@@H]12N(C[C@@H](NC1)C2)C(=O)N | InChI=1S/C6H11N3O.ClH/c7-6(10)9-3-4-1-5(9)2-8-4;/h4-5,8H,1-3H2,(H2,7,10);1H/t4-,5-;/m0./s1
